US06506747B1
Synthesis of [4-(5-Ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2-methylbenzyl)amine
A slurry of Raney Ni (200 mg, 50% in water) was added to a solution 5-ethyl-3-(3-pyridyl)-1-(4′-aminophenyl)pyrazole (500 mg, 1.89 mmol) and o-tolunitrile (0.27 mL, 1.2 equiv.) in glacial acetic acid (20 mL), and the mixture was stirred under hydrogen at 40 psi for 7.5 h. The reaction mixture was filtered through diatomaceous earth, diluted with water, extracted with ethyl acetate, washed with brine, dried (Na2SO4) and concentrated. Chromatography on silica gel (hexane/ethyl acetate=1:1) gave the title compound (595 mg, 85%). 1H-NMR (CDCl3): 1.30 (t, J=7.5 Hz, 3H), 2.42 (s, 3H), 2.69 (q, J=7.5 Hz, 2H), 3.95-4.25 (bs, 1H), 4.36 (s, 2H), 6.58 (s, 1H), 6.72 (d, J=8.7 Hz, 1H), 7.21-7.41 (m, 6H), 8.21 (dd, J=1.6, 6.3 Hz, 1H), 8.56 (d, J=4.1 Hz, 1H), 9.10 (d, J=1.6 Hz, 1H).

reactant | 5-ethyl-3-(3-pyridyl)-1-(4′-aminophenyl)pyrazole | 1.89 mmol, 500 mg | C(C)C1=CC(=NN1C1=CC=C(C=C1)N)C=1C=NC=CC1 | C16H16N4
reactant | o-tolunitrile | 0.27 mL, 1.2 equiv. | C=1(C(=CC=CC1)C#N)C | C8H7N
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | Ni | 200 mg | [Ni] | Ni
product | [4-(5-Ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-(2-methylbenzyl)amine | 595 mg, 85% | C(C)C1=CC(=NN1C1=CC=C(C=C1)NCC1=C(C=CC=C1)C)C=1C=NC=CC1 | C24H24N4
